US05380742
3.3 1-Bromo-3-phenyl-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
0.91 g (7.5 mmol) of phenylboronic acid, 0.209 g (0.38 mmol) of (dibenzylideneacetone)-palladium(O), 0,397 g (1.5 mmol) of triphenylphosphine and 7.5 ml (15 mmol) of a 2M sodium carbonate solution are added to a solution of 3.2 g (8.3 mmol) of 1,3-dibromo-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 45 ml of toluene. The mixture is heated at reflux for 5.5 hours and then cooled. The organic phase is separated by settling, washed with water, dried over magnesium sulphate and then evaporated to dryness. The residue is purified by chromatography on silica gel using the 5/95 ethyl acetate/hexane eluent mixture. There is obtained 0.98 g of a white solid. Yield 34%. Melting point: 139°-140° C.

reactant | phenylboronic acid | 7.5 mmol, 0.91 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 1.5 mmol, 0,397 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3-dibromo-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 8.3 mmol, 3.2 g | BrC=1SC(=C2C1CN(C2)C(=O)OC(C)(C)C)Br | C11H13Br2NO2S
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Bromo-3-phenyl-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.98 g, Yield 34% | BrC=1SC(=C2C1CN(C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C17H18BrNO2S
